2106-06-02 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2106-6-1**] 07:00 PM
 INVASIVE VENTILATION - START [**2106-6-1**] 07:23 PM
 PICC LINE - STOP [**2106-6-1**] 09:00 PM
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-6-1**] 08:30 PM
   Meropenem - [**2106-6-2**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-6-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-2**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.8
C (96.5
   HR: 70 (70 - 91) bpm
   BP: 97/36(51) {87/33(47) - 105/46(59)} mmHg
   RR: 19 (16 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,036 mL
                                                                    587 mL
   PO:
             TF:
                                                                      6 mL
                                                                    111 mL
   IVF:
                                                                  1,030 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    445 mL
                                                                    135 mL
   Urine:
                                                                     45 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,591 mL
                                                                    452 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.45/50/410//9
   Ve: 6 L/min
   PaO2 / FiO2: 1,025
   Physical Examination
   Gen: Frail, elderly, intubated, kyphotic
   HEENT: PERRL
   Heart: s1s2 RRR
   Pulm: soft Rhonchi throughout (upper airway?)
   Abd: soft, NT/ND
   Ext: no c/c/e
   Neuro: Sedated
   Skin: large decubitus over R buttock, with no purulence expressed
   Labs / Radiology - PENDING
   96
   34
   3.4
   99
   136
   22
        [image002.jpg]
   ABG
 7.55 / 38 / 104; lactate 0.8
   MICRO - GNRs in blood 2/2 bottles, UA positive.
                             [**2106-6-1**]  05:59 PM
   TCO2
   36
   Assessment and Plan
   [**Age over 90 **] year old F with dementia, G-tube, s/p recent aspiration PNA now with
   recurrent respiratory  failure and fever.
   # Respiratory failure:  Tachypnic and hypoxic on arrival to the ED.
   Given the recent admission with aspiration PNA and now fever and
   slightly elevated WBC, this presentation is suggestive of recurrent
   aspiration pneumonia or HAP. Given recent ESBL Ecoli PNA, will switch
   from Zosyn to Meropenem. Meropenem and Vanc should adequate cover
   anaerobes and HAP as well.  She also has chronic diastolic heart
   failure which could predispose her to pulmonary edema; however, on exam
   she appears dry w/o JVD, edema or crackles. Blood Cx now w/ GNRs, ?
   lung vs. urine. Urinary legionella antigen negative.
   - cont Meropenem / Levofloxacin, d/c Vanc given no GPCs; will need
   14-day course
   - f/u sputum cx, blood cx; check daily blood cx
   - mechanically ventilated
 transition to CPAP today [**11-15**]; check ABG
   - limit sedation, did not require any on last admission
   # Dirty UA: Chronic foley vs infection. Blood Cx now w/ GNRs, ? lung
   vs. urine. Foley now changed.
   - cont Meropenem / Levofloxacin, d/c Vanc given no GPCs; will need
   14-day course
   - f/u urine cx, blood cx; check daily blood cx
   # Low BP: On last admission presented with sepsis. BP now 95/38 with
   MAP 50. However, per nursing staff this is patient
s baseline. Her
   lactate of 1.6 is also not suggestive of sepsis. Has received 2 L NS
   already. Stable.
   - ICU monitoring
   - no further IVF for now
   - keep SBP >90 with IVF boluses as needed
   # Sacral Decub: debrided on last  admission with microbiology showing
   mixed baterial flora, currently appears uninfected.
   - continue to monitor
   # Afib: currently in NSR with HR 70
   - cont home amiodarone
   # Goals of care:  palliative care aware and will consult
   ICU Care
   Nutrition: tube-feeds
   Fibersource HN (Full) - [**2106-6-1**] 11:27 PM 20 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2106-6-1**] 07:00 PM
   20 Gauge - [**2106-6-1**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2106-06-02 10:08:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2106-6-1**] 07:00 PM
 INVASIVE VENTILATION - START [**2106-6-1**] 07:23 PM
 PICC LINE - STOP [**2106-6-1**] 09:00 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-6-1**] 08:30 PM
   Meropenem - [**2106-6-2**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-6-2**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-2**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.5
C (97.7
   HR: 66 (66 - 91) bpm
   BP: 108/44(58) {87/33(47) - 108/46(59)} mmHg
   RR: 17 (16 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,036 mL
                                                                    692 mL
   PO:
             TF:
                                                                      6 mL
                                                                    166 mL
   IVF:
                                                                  1,030 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                    445 mL
                                                                    190 mL
   Urine:
                                                                     45 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,591 mL
                                                                    502 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.55/38/104//10
   Ve: 6.7 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Thin, kyphotic
   Head, Ears, Nose, Throat: Normocephalic, nasotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: bases, Diminished:
   bases)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   96 mg/dL
   3.4 mEq/L
   99 mEq/L
   136 mEq/L
   22
        [image002.jpg]
                             [**2106-6-1**]  05:59 PM
                             [**2106-6-2**]  08:03 AM
   Hct
   22
   TCO2
   36
   34
   Glucose
   96
   Other labs: Lactic Acid:0.8 mmol/L
   Assessment and Plan
   [**Age over 90 **] year old F with dementia, G-tube, s/p recent aspiration PNA now with
   recurrent respiratory  failure and fever.
   Respiratory failure:
   -acute on chronic resp failure
   -fever and slightly elevated WBC
   -? aspiration pneumonia or HAP
   - Vanc/Meropenem/ Levofloxacin empirically given possible HAP/hx
   resistant org
   -also in ddx is chf though exam, cxr not consistent
   - mechanically ventilated
   -resp alkalosis - adjust vent.  anxiety, discomfort common causes
   though pt denies both.
   Sepsis
   -2/2 bottles GNR from blood
   -Hemodyn stable
   -Vanc/[**Last Name (un) **]/levo
   + UA:
   -indwelling foley colonization vs. infection
   -folely change
   -? source of sepsis
   Sacral Decub:
   -large ulcer
   -appears unchanged from last admission
   Afib:
   -NSR currently
   - amiodarone
   Need to clarify code status with family.  She was DNR/I at time of
   discharge last admission per last conversation with neice.
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Fibersource HN (Full) - [**2106-6-1**] 11:27 PM 30 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2106-6-1**] 07:00 PM
   20 Gauge - [**2106-6-1**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : Continue ICU
   Patient is critically ill.
   Total time spent:  55 minutes

2106-06-03 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2106-6-2**] 09:00 PM
   - switched to PS 10/5 -> VBG 7.44/49/29, sats 100% 40%FiO2
   - She did very well on PS 10/5 all day
   - Discussion with niece at length: opinion is that b/c patient has
   always weaned off vent easily, there is nothing wrong with intermittent
   intubations (after explanation of complications, risk of infection,
   risk of trauma). In terms of a decision for long term resp care, she
   was adamant that pt would not want trach, but repeated that pt has not
   needed prolonged intubations. Regarding CPR, she does want to to have
   CPR and resuscitation despite understanding risk of trauma, rib
   fracture, pain etc. This was discussed at length despite expressing
   medical opinion that this would be very traumatic for patient and would
   be unlikely to result in good outcome. (Niece [**Name (NI) 2006**] [**Name (NI) 2138**]
   [**Telephone/Fax (1) 5936**]; cell [**Telephone/Fax (1) 5937**])
   - palliative care consult called (they are very familiar with pt and
   her family)
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-6-1**] 08:30 PM
   Meropenem - [**2106-6-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-6-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-3**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 74 (66 - 78) bpm
   BP: 119/48(65) {102/37(53) - 131/55(72)} mmHg
   RR: 26 (17 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,849 mL
                                                                    831 mL
   PO:
             TF:
                                                                    599 mL
                                                                    305 mL
   IVF:
                                                                    440 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                    454 mL
                                                                    233 mL
   Urine:
                                                                    454 mL
                                                                    233 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,395 mL
                                                                    598 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 184 (184 - 311) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 15 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.44/49/29/28/6 @ 2pm [**6-2**]
   Ve: 5.8 L/min
   PaO2 / FiO2: 73
   Physical Examination
   Gen: Frail, elderly, intubated, kyphotic
   HEENT: PERRL
   Heart: s1s2 RRR
   Pulm: soft Rhonchi throughout (upper airway?)
   Abd: soft, NT/ND
   Ext: no c/c/e
   Neuro: Sedated
   Skin: large decubitus over R buttock, with no purulence expressed
   Labs / Radiology
   303 K/uL
   8.1 g/dL
   106 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.7 mEq/L
   19 mg/dL
   105 mEq/L
   141 mEq/L
   24.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2106-6-1**]  05:59 PM
                             [**2106-6-2**]  08:03 AM
                             [**2106-6-2**]  02:06 PM
                             [**2106-6-3**]  03:03 AM
   WBC
   7.5
   Hct
   22
   24.4
   Plt
   303
   Cr
   0.4
   TCO2
   36
   34
   34
   Glucose
   96
   106
   Other labs: PT / PTT / INR:14.2/57.0/1.2, Ca++:8.3 mg/dL, Mg++:1.6
   mg/dL, PO4:2.5 mg/dL
   Microbiology: [**6-1**] Urine Cx - (prelim) E.coli
   [**6-1**] Blood Cx - GNRs x2, Cx pending
   [**6-2**] Blood Cx - pending
   [**6-3**] Blood Cx - pending
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   [**Age over 90 **] year old F with dementia, G-tube, s/p recent aspiration PNA now with
   recurrent respiratory  failure and fever.
   # Respiratory failure:  Tachypneic and hypoxic on arrival to the ED.
   Given the recent admission with aspiration PNA and now fever and
   slightly elevated WBC, this presentation is suggestive of recurrent
   aspiration pneumonia or HAP. Given recent ESBL Ecoli PNA, will switch
   from Zosyn to Meropenem. Meropenem and Vanc should adequate cover
   anaerobes and HAP as well.  She also has chronic diastolic heart
   failure which could predispose her to pulmonary edema; however, on exam
   she appears dry w/o JVD, edema or crackles. Blood Cx now w/ GNRs, ?
   lung vs. urine. Urinary legionella antigen negative.
   - repeat CXR today
   - cont Meropenem / Levofloxacin, d/c Vanc given no GPCs; will need
   14-day course
   - if clinically worsens, would add on gentamycin
   - add [**Last Name (un) 46**] to meropenam on e. coli from urine
   - f/u sputum cx, blood cx; check daily blood cx
   - mechanically ventilated using PS; check ABG as needed
   - limit sedation, did not require any on last admission
   # UTI: Chronic foley vs infection. Blood Cx now w/ GNRs, ? lung vs.
   urine. Foley now changed. Urine Cx growing E.coli.
   - cont Meropenem / Levofloxacin, d/c Vanc given no GPCs; will need
   14-day course
   - f/u urine cx, blood cx; check daily blood cx
   # Low BP: On last admission presented with sepsis. BP now 95/38 with
   MAP 50. However, per nursing staff this is patient
s baseline. Her
   lactate of 1.6 is also not suggestive of sepsis. Has received 2 L NS
   already. Stable.
   - ICU monitoring
   - no further IVF for now
   - keep SBP >90 with IVF boluses as needed
   # Sacral Decub: debrided on last  admission with microbiology showing
   mixed baterial flora, currently appears uninfected.
   - continue to monitor
   # Afib: currently in NSR with HR 70
   - cont home amiodarone
   # Goals of care:  palliative care aware and will consult; will need
   further discussion with niece regarding goals of care
   ICU Care
   Nutrition: tube-feeds: Fibersource HN (Full) - [**2106-6-3**] 02:50 AM 40
   mL/hour
   Glycemic Control:  blood sugars well-controlled
   Lines:  20 Gauge - [**2106-6-1**] 07:00 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PO PPI
   VAP:
   Comments:
   Communication: patient, niece Comments:
   Code status: FULL CODE
   Disposition: ICU

2106-06-03 11:40:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2106-6-2**] 09:00 PM
   -changed to PSV last night
   History obtained from Medical records
   Patient unable to provide history: dementia
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-6-1**] 08:30 PM
   Meropenem - [**2106-6-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-6-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-3**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 114 (67 - 114) bpm
   BP: 148/73(91) {102/37(53) - 148/73(91)} mmHg
   RR: 31 (22 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
             Total In:
                                                                  1,849 mL
                                                                    933 mL
   PO:
             TF:
                                                                    599 mL
                                                                    320 mL
   IVF:
                                                                    440 mL
                                                                    263 mL
   Blood products:
   Total out:
                                                                    454 mL
                                                                    358 mL
   Urine:
                                                                    454 mL
                                                                    358 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,395 mL
                                                                    575 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 316 (184 - 316) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 5 cmH2O
   SpO2: 98%
   ABG: 7.50/43/135/28/9
   Ve: 9 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: Thin, kyphotic
   Head, Ears, Nose, Throat: Normocephalic, nasotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   303 K/uL
   106 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.7 mEq/L
   19 mg/dL
   105 mEq/L
   141 mEq/L
   24.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2106-6-1**]  05:59 PM
                             [**2106-6-2**]  08:03 AM
                             [**2106-6-2**]  02:06 PM
                             [**2106-6-3**]  03:03 AM
                             [**2106-6-3**]  09:22 AM
   WBC
   7.5
   Hct
   22
   24.4
   Plt
   303
   Cr
   0.4
   TCO2
   36
   34
   34
   35
   Glucose
   96
   106
   Other labs: PT / PTT / INR:14.2/57.0/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Microbiology: E. coli from urine
   [**3-15**] BCx + GNR
   Assessment and Plan
   [**Age over 90 **] year old F with dementia, G-tube, s/p recent aspiration PNA now with
   recurrent respiratory  failure and fever.
   Respiratory failure:
   -acute on chronic resp failure
   -appears tired, using accessory muscles - increase pressure support
   -? aspiration pneumonia or HAP
   -Vanc/Meropenem/ Levofloxacin empirically given possible HAP/hx
   resistant org
   -also in ddx is chf though exam, cxr not consistent
   Sepsis
   -2/2 bottles GNR from blood
   -e.coli in urine - suspected source of sepsis
   -Hemodyn stable
   -Vanc/[**Last Name (un) **]/levo tailor based on sensitivities
   e. coli UTI
   -indwelling foley colonization vs. infection
   -folely change
   -? source of sepsis
    Sacral Decub:
   -large ulcer
   -appears unchanged from last admission
   Afib:
   -NSR currently
   - amiodarone
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-6-1**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2106-06-04 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - did well on SBT x3 hours but appeared tired at end, so not extubated
   - sensitivities on urine awaiting [**Last Name (un) 350**] sensitivy
   - blood cultures growing GNRs (awaiting speciation), sensitive to
   Meropenem
   - blood cultures also growing 1/4 bottles GPCs, restarted Vancomycin
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-6-3**] 02:07 PM
   Vancomycin - [**2106-6-3**] 06:14 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-6-4**] 12:12 AM
   Other medications:
   Acetaminophen
   Albuterol Inhaler
   Amiodarone
   Aspirin
   Docusate Sodium (Liquid)
   Fentanyl Citrate
   Heparin
   Lansoprazole Oral Disintegrating Tab
   Levofloxacin
   Namenda
   Senna
   Flowsheet Data as of  [**2106-6-4**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 68 (65 - 114) bpm
   BP: 112/45(61) {85/39(49) - 148/81(91)} mmHg
   RR: 14 (10 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,906 mL
                                                                    125 mL
   PO:
             TF:
                                                                    727 mL
                                                                     50 mL
   IVF:
                                                                    679 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                    606 mL
                                                                    115 mL
   Urine:
                                                                    606 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,300 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 423 (316 - 423) mL
   PS : 12 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.50/43/135/28/9
   Ve: 6 L/min
   PaO2 / FiO2: 338
   Physical Examination
   Gen: Frail, elderly, intubated, kyphotic
   HEENT: PERRL
   Heart: s1s2 RRR
   Pulm: soft Rhonchi throughout (upper airway?)
   Abd: soft, NT/ND
   Ext: no c/c/e
   Neuro: Sedated
   Skin: large decubitus over R buttock, with no purulence expressed
   Labs / Radiology
   360 K/uL
   7.6 g/dL
   102 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.6 mEq/L
   18 mg/dL
   105 mEq/L
   140 mEq/L
   22.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2106-6-1**]  05:59 PM
                             [**2106-6-2**]  08:03 AM
                             [**2106-6-2**]  02:06 PM
                             [**2106-6-3**]  03:03 AM
                             [**2106-6-3**]  09:22 AM
                             [**2106-6-4**]  02:51 AM
   WBC
   7.5
   5.4
   Hct
   22
   24.4
   22.6
   Plt
   303
   360
   Cr
   0.4
   0.4
   TCO2
   36
   34
   34
   35
   Glucose
   96
   106
   102
   Other labs: PT / PTT / INR:13.9/35.2/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Microbiology: Urine Cx [**6-1**] - E.coli
   Blood Cx [**6-1**] - GNRs
   Blood Cx [**6-1**] - GPCs x1
   Blood Cx [**6-2**] - NGTD
   Blood Cx [**6-3**] - NGTD
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   [**Age over 90 **] year old F with dementia, G-tube, s/p recent aspiration PNA now with
   recurrent respiratory failure and fever.
   # Respiratory failure:  Tachypneic and hypoxic on arrival to the ED.
   Given the recent admission with aspiration PNA and now fever and
   slightly elevated WBC, this presentation is suggestive of recurrent
   aspiration pneumonia or HAP. Given recent ESBL Ecoli PNA, will switch
   from Zosyn to Meropenem. Meropenem and Vanc should adequate cover
   anaerobes and HAP as well.  She also has chronic diastolic heart
   failure which could predispose her to pulmonary edema; however, on exam
   she appears dry w/o JVD, edema or crackles. Blood Cx now w/ GNRs, ?
   lung vs. urine. Urinary legionella antigen negative.
   - cont Meropenem / Vanc pending speciation / sensitivities; will need
   14-day course
   - dc levofloxacin
   - if clinically worsens, would add on gentamycin
   - f/u sputum cx, blood cx; check daily blood cx
   - mechanically ventilated using PS -->  will perform SBT and extubate
   if RISBI <100
   - limit sedation, did not require any on last admission
   # UTI: Chronic foley vs infection. Blood Cx now w/ GNRs, ? lung vs.
   urine. Foley now changed. Urine Cx growing E.coli.
   - dc levofloxacin
   - cont meropenem, await sensitivity to Meropenem
   .
   # GNR bateremia: GNR sensitive to meropenem, resistant to levofloxacin.
   HD stable, fever curve and WBC trending down. Surveillance blood cx
   neg.
   - cont Meropenem / Vanc pending speciation / sensitivities; will need
   14-day course
   - dc levofloxacin
   - obtain vanc level prior to 3^rd dose
   # Low BP: On last admission presented with sepsis. BP now 95/38 with
   MAP 50. However, per nursing staff this is patient
s baseline. Her
   lactate of 1.6 is also not suggestive of sepsis. Has received 2 L NS
   already. Stable.
   - ICU monitoring
   - no further IVF for now
   - keep SBP >90 with IVF boluses as needed
   # Sacral Decub: debrided on last  admission with microbiology showing
   mixed baterial flora, currently appears uninfected.
   - continue to monitor
   # Afib: currently in NSR with HR 70
   - cont home amiodarone
   # Goals of care:  palliative care aware and will consult; will need
   further discussion with niece regarding goals of care
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  well-controlled
   Lines:
   22 Gauge - [**2106-6-3**] 06:02 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2106-06-04 10:54:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -stable overnight
   History obtained from Medical records
   Patient unable to provide history: intubated, dementia
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-6-3**] 02:07 PM
   Vancomycin - [**2106-6-3**] 06:14 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-6-4**] 07:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-4**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 63 (63 - 114) bpm
   BP: 106/43(57) {85/39(49) - 148/81(91)} mmHg
   RR: 19 (10 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,906 mL
                                                                    155 mL
   PO:
             TF:
                                                                    727 mL
                                                                     50 mL
   IVF:
                                                                    679 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                    606 mL
                                                                    240 mL
   Urine:
                                                                    606 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,300 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 302 (302 - 423) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: Thin, kyphotic
   Head, Ears, Nose, Throat: nasotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, sacral decubitus
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   360 K/uL
   102 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.6 mEq/L
   18 mg/dL
   105 mEq/L
   140 mEq/L
   22.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2106-6-1**]  05:59 PM
                             [**2106-6-2**]  08:03 AM
                             [**2106-6-2**]  02:06 PM
                             [**2106-6-3**]  03:03 AM
                             [**2106-6-3**]  09:22 AM
                             [**2106-6-4**]  02:51 AM
   WBC
   7.5
   5.4
   Hct
   22
   24.4
   22.6
   Plt
   303
   360
   Cr
   0.4
   0.4
   TCO2
   36
   34
   34
   35
   Glucose
   96
   106
   102
   Other labs: PT / PTT / INR:13.9/35.2/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   [**Age over 90 **]F with dementia, s/p recent aspiration PNA with recurrent respiratory
   failure sepsis.
    Respiratory failure:
   -remains mechanically ventilated
   -acute on chronic resp failure
   -SBT
   -reassess in one hour to assess for extubation
    Sepsis
   -2/2 bottles GNR from blood - await speciation/sensi
   -e.coli in urine - suspected source of sepsis
   -Hemodyn stable
   -Vanc/[**Last Name (un) **] tailor based on sensitivities
   e. coli UTI
   -indwelling foley colonization vs. infection
   -folely change
   -possible source of sepsis
    Sacral Decub:
   -large ulcer
   -appears unchanged from last admission
   Afib:
   -NSR currently
   - amiodarone
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-6-3**] 06:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2106-06-05 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PEG INSERTION - At [**2106-6-4**] 02:00 PM
 PICC LINE - START [**2106-6-4**] 04:16 PM
   - IR resite'd PICC and replaced G-tube
   - DNR and do not reintubate
   - Blood cx's growing: bottle 1: Ecoli; Bottle 2: GPC's, E.coli and
   second GNR
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-6-3**] 06:14 PM
   Meropenem - [**2106-6-5**] 05:59 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-6-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-5**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 87 (61 - 87) bpm
   BP: 132/62(79) {88/29(43) - 132/63(80)} mmHg
   RR: 21 (0 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    490 mL
                                                                    180 mL
   PO:
             TF:
                                                                     50 mL
   IVF:
                                                                    440 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    155 mL
   Urine:
                                                                    500 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -10 mL
                                                                     25 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 302 (253 - 446) mL
   PS : 12 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   SpO2: 99%
   ABG: ///29/
   Ve: 5.9 L/min
   Physical Examination
   Per nursing: suction copious thick secretions
   Gen: Frail, elderly, intubated, kyphotic
   HEENT: PERRL
   Heart: s1s2 RRR
   Pulm: soft Rhonchi throughout (upper airway?)
   Abd: soft, NT/ND
   Ext: no c/c/e
   Neuro: Sedated
   Skin: large decubitus over R buttock, with no purulence expressed
   Labs / Radiology
   318 K/uL
   7.9 g/dL
   76 mg/dL
   0.3 mg/dL
   29 mEq/L
   3.7 mEq/L
   16 mg/dL
   104 mEq/L
   140 mEq/L
   24.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2106-6-1**]  05:59 PM
                             [**2106-6-2**]  08:03 AM
                             [**2106-6-2**]  02:06 PM
                             [**2106-6-3**]  03:03 AM
                             [**2106-6-3**]  09:22 AM
                             [**2106-6-4**]  02:51 AM
                             [**2106-6-5**]  04:56 AM
   WBC
   7.5
   5.4
   6.3
   Hct
   22
   24.4
   22.6
   24.2
   Plt
   [**Telephone/Fax (3) 5975**]
   Cr
   0.4
   0.4
   0.3
   TCO2
   36
   34
   34
   35
   Glucose
   96
   106
   102
   76
   Other labs: PT / PTT / INR:13.7/35.2/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR:
   Microbiology: [**6-1**] Blood Culture: ESCHERICHIA COLI, GRAM POSITIVE
   COCCUS(COCCI), GRAM NEGATIVE ROD(S)
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   [**Age over 90 **] year old F with dementia, G-tube, s/p recent aspiration PNA now with
   recurrent respiratory failure and fever.
   # Respiratory failure:   Improving although now with more secretions.
   Tachypneic and hypoxic on arrival to the ED.  Given the recent
   admission with aspiration PNA and now fever and slightly elevated WBC,
   this presentation is suggestive of recurrent aspiration pneumonia or
   HAP. Given recent ESBL Ecoli PNA, will switch from Zosyn to Meropenem.
   Meropenem and Vanc should adequate cover anaerobes and HAP as well.
   She also has chronic diastolic heart failure which could predispose her
   to pulmonary edema; however, on exam she appears dry w/o JVD, edema or
   crackles. Blood Cx now w/ GNRs, ? lung vs. urine. Urinary legionella
   antigen negative.
   - cont Meropenem / Vanc pending speciation / sensitivities; will need
   14-day course
   - if clinically worsens, would add on gentamycin
   - f/u sputum cx, blood cx; check daily blood cx
   -  given secretions will not extubate today
   - mechanically ventilated using PS -->  will perform SBT
   - limit sedation, did not require any on last admission
   # UTI: Chronic foley vs infection. Blood Cx now w/ GNRs, ? lung vs.
   urine. Foley now changed. Urine Cx growing E.coli senstive to meropenem
   - cont meropenem
   # GNR bateremia: GNR sensitive to meropenem, resistant to levofloxacin.
   HD stable, fever curve and WBC trending down. Surveillance blood cx
   neg. Vanc level 17. Given polymicrobial infection and visible bone,
   will treat this infection as osteo.
   - cont Meropenem / Vanc pending speciation / sensitivities; will need 6
   week course
   - check Vanc troughs prior to fourth dose given low GFR and treating as
   osteo
   # Low BP:  Stable On last admission presented with sepsis. BP now 95/38
   with MAP 50. However, per nursing staff this is patient
s baseline. Her
   lactate of 1.6 is also not suggestive of sepsis. Has received 2 L NS
   already. Stable.
   - ICU monitoring
   - no further IVF for now
   - keep SBP >90 with IVF boluses as needed
   # Sacral Decub: debrided on last admission with microbiology showing
   mixed baterial flora, currently appears uninfected.
   - continue to monitor
   # Afib: currently in NSR with HR 70
   - cont home amiodarone
   # Goals of care:  DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-6-3**] 06:02 PM
   PICC Line - [**2106-6-4**] 04:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2106-06-05 09:01:00 Physician Attending Progress Note
Chief Complaint: sepsis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Code discussion will extubate if passes SBT and is now DNR/DNI
 PEG INSERTION - At [**2106-6-4**] 02:00 PM
 PICC LINE - START [**2106-6-4**] 04:16 PM
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-6-5**] 05:59 AM
   Vancomycin - [**2106-6-5**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2106-6-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2106-6-5**] 08:00 AM
   Other medications:
   hep 5K
   chlorhex
   asa 325
   amiodarone
   nemenda
   25mcg fent noon yest
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-5**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 87 (61 - 87) bpm
   BP: 125/45(65) {88/29(43) - 132/63(80)} mmHg
   RR: 0 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    490 mL
                                                                    450 mL
   PO:
             TF:
                                                                     50 mL
   IVF:
                                                                    440 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    195 mL
   Urine:
                                                                    500 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -10 mL
                                                                    255 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 335 (253 - 446) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 5 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Thin, kyphotic
   Head, Ears, Nose, Throat: nasotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, sacral decubitus
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   318 K/uL
   76 mg/dL
   0.3 mg/dL
   29 mEq/L
   3.7 mEq/L
   16 mg/dL
   104 mEq/L
   140 mEq/L
   24.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2106-6-1**]  05:59 PM
                             [**2106-6-2**]  08:03 AM
                             [**2106-6-2**]  02:06 PM
                             [**2106-6-3**]  03:03 AM
                             [**2106-6-3**]  09:22 AM
                             [**2106-6-4**]  02:51 AM
                             [**2106-6-5**]  04:56 AM
   WBC
   7.5
   5.4
   6.3
   Hct
   22
   24.4
   22.6
   24.2
   Plt
   [**Telephone/Fax (3) 5975**]
   Cr
   0.4
   0.4
   0.3
   TCO2
   36
   34
   34
   35
   Glucose
   96
   106
   102
   76
   Other labs: PT / PTT / INR:13.7/35.2/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Micro-Urine e.coli [**Doctor Last Name **] to [**Last Name (un) **]/gent/bactrim/zosyn
   Blood cx 1-E.coli [**Doctor Last Name **] to cephlo/[**Last Name (un) **]/zosyn res bactrim
   Bloo2 #2-E.coli  same as above, 2^nd Gram neg rod and GPC
   all subsequent blood cx neg.
   Of note e.coli from before PNA was similar to urine
   Assessment and Plan
   [**Age over 90 **]F with dementia, s/p recent aspiration PNA with recurrent respiratory
   failure sepsis.
    Respiratory failure:
   -remains mechanically ventilated
   -acute on chronic resp failure
   -SBT passed RSBI 102
   -Limited by Q1 hr secretions
    Sepsis
   -2/2 bottles GNR from blood -polymic
   -e.coli in urine - suspected source of sepsis
   -Hemodyn stable
   -Vanc/[**Last Name (un) **] tailor based on sensitivities of gram + cocci
   -Still unclear source could be the wound may need longer course of abx
   6 weeks
   -Will send sputum today
   -Check  vanc trough and calculate renal clearance and [**Last Name (un) 350**] dosing.
   e. coli UTI
   -indwelling foley colonization vs. infection
   -folely change
   -Not the same bug as in her blood
    Sacral Decub:
   -large ulcer
   -appears unchanged from last admission concern for Osteo given + blood
   cx will treat for 6 weeks.
   Afib:
   -NSR currently
   - amiodarone
   Remainder of plan per resident note.
   ICU Care
   Nutrition: Restart tube feeds
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-6-3**] 06:02 PM
   PICC Line - [**2106-6-4**] 04:16 PM
   Prophylaxis:
   DVT: Sq hep
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  40 minutes

2106-06-06 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - blood cx now growing enterococcus, continued vanc/[**Last Name (un) **]
   - spoke to RN and secretions appeared more earlier today, but then
   decreased over course of the day. By AM, very minimal secretions
   - RSBI 125, currently on SBT
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-6-5**] 08:00 AM
   Meropenem - [**2106-6-5**] 10:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2106-6-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2106-6-6**] 12:21 AM
   Other medications:
   Amiodarone
   ASA
   Chlorhexadine
   Namenda
   Flowsheet Data as of  [**2106-6-6**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 76 (68 - 88) bpm
   BP: 163/65(91) {90/16(36) - 163/88(96)} mmHg
   RR: 27 (0 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,224 mL
                                                                     77 mL
   PO:
             TF:
                                                                    314 mL
   IVF:
                                                                    740 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    220 mL
   Urine:
                                                                    550 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    674 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 253 (253 - 335) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 6 L/min
   Physical Examination
   Gen: Frail, elderly, intubated, kyphotic
   HEENT: PERRL
   Heart: s1s2 RRR
   Pulm: soft Rhonchi throughout (upper airway?)
   Abd: soft, NT/ND
   Ext: no c/c/e
   Neuro: Sedated
   Skin: large decubitus over R buttock, with no purulence expressed
   Labs / Radiology
   361 K/uL
   7.8 g/dL
   92 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.1 mEq/L
   14 mg/dL
   105 mEq/L
   141 mEq/L
   23.5 %
   6.2 K/uL
        [image002.jpg]
                             [**2106-6-1**]  05:59 PM
                             [**2106-6-2**]  08:03 AM
                             [**2106-6-2**]  02:06 PM
                             [**2106-6-3**]  03:03 AM
                             [**2106-6-3**]  09:22 AM
                             [**2106-6-4**]  02:51 AM
                             [**2106-6-5**]  04:56 AM
                             [**2106-6-6**]  03:31 AM
   WBC
   7.5
   5.4
   6.3
   6.2
   Hct
   22
   24.4
   22.6
   24.2
   23.5
   Plt
   [**Telephone/Fax (3) 5990**]61
   Cr
   0.4
   0.4
   0.3
   0.4
   TCO2
   36
   34
   34
   35
   Glucose
   96
   106
   102
   76
   92
   Other labs: PT / PTT / INR:13.7/35.2/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Microbiology: SPUTUM:
      GRAM STAIN (Final [**2106-6-5**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS IN
   CLUSTERS.
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   [**Age over 90 **] year old F with dementia, G-tube, s/p recent aspiration PNA now with
   recurrent respiratory failure and fever.
   # Respiratory failure: Improving although now with more secretions.
   Tachypneic and hypoxic on arrival to the ED.  Given the recent
   admission with aspiration PNA and now fever and slightly elevated WBC,
   this presentation is suggestive of recurrent aspiration pneumonia or
   HAP. Given recent ESBL Ecoli PNA, will switch from Zosyn to Meropenem.
   Meropenem and Vanc should adequate cover anaerobes and HAP as well.
   She also has chronic diastolic heart failure which could predispose her
   to pulmonary edema; however, on exam she appears dry w/o JVD, edema or
   crackles. Blood Cx now w/ GNRs and GPCs, ? lung vs. urine. Urinary
   legionella antigen negative. Sputum GS w/ GPCs, species pending.
   - cont Meropenem / Vanc pending speciation / sensitivities; will need 6
   week course for presumed osteo
   - if clinically worsens, would add on gentamycin
   - f/u sputum cx, blood cx
   - mechanically ventilated using PS -->  will perform SBT, attempt to
   extubate today, plan discussed with patient
s [**Last Name (LF) 782**], [**Name (NI) 2006**] [**Name (NI) 2138**]
   - limit sedation, did not require any on last admission
   # UTI: Chronic foley vs infection. Blood Cx now w/ GNRs, ? lung vs.
   urine. Foley now changed. Urine Cx growing E.coli senstive to meropenem
   - cont meropenem
   # Bacteremia: E.coli sensitive to meropenem, resistant to levofloxacin.
   Enterococcus pending sensitivities. HD stable, fever curve and WBC
   trending down. Surveillance blood cx neg. Vanc level 15. Given
   polymicrobial infection and visible [**Last Name (LF) 48**], [**First Name3 (LF) 124**] treat this infection as
   osteo.
   - cont Meropenem / Vanc pending speciation / sensitivities; will need 6
   week course
   - check Vanc troughs prior to fourth dose given low GFR and treating as
   osteo
   # Low BP:  Stable On last admission presented with sepsis. BP now 95/38
   with MAP 50. However, per nursing staff this is patient
s baseline. Her
   lactate of 1.6 is also not suggestive of sepsis. Has received 2 L NS
   already. Stable.
   - ICU monitoring
   - no further IVF for now
   - keep SBP >90 with IVF boluses as needed
   # Sacral Decub: debrided on last admission with microbiology showing
   mixed baterial flora, currently appears uninfected.
   - continue to monitor
   # Afib: currently in NSR with HR 70
   - cont home amiodarone
   # Goals of care:  DNR/DNI
   ICU Care
   Nutrition: TF held since MN
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-6-3**] 06:02 PM
   PICC Line - [**2106-6-4**] 04:16 PM
   Prophylaxis:
   DVT: SQ heparin, boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: ICU

2106-06-06 09:14:00 Physician Attending Progress Note
Chief Complaint: sepsis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Minimal to scant secretions.
   Code discussion will extubate if passes SBT and is now DNR/DNI
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem 500 q8 - [**2106-6-5**] 10:00 PM
   Vancomycin 1g q24- [**2106-6-6**] 08:09 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2106-6-6**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2106-6-6**] 08:09 AM
   Other medications:
   hep 5K
   chlorhex
   asa 325
   amiodarone 200mg qday
   nemenda
   Changes to medical and family history:
   See admission H+P unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:see resident note, unremarkable intubated
   Flowsheet Data as of  [**2106-6-6**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 85 (68 - 88) bpm
   BP: 146/63(84) {90/16(36) - 163/88(96)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,224 mL
                                                                    362 mL
   PO:
             TF:
                                                                    314 mL
   IVF:
                                                                    740 mL
                                                                    292 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    320 mL
   Urine:
                                                                    550 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    674 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP
   Vt (Spontaneous): 268 (253 - 334) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Thin, kyphotic
   Head, Ears, Nose, Throat: nasotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, sacral decubitus
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology:
   7.8 g/dL
   361 K/uL
   92 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.1 mEq/L
   14 mg/dL
   105 mEq/L
   141 mEq/L
   23.5 %
   6.2 K/uL
        [image002.jpg]
   Vanc 15.9
   Micro-Urine e.coli [**Doctor Last Name **] to [**Last Name (un) **]/gent/bactrim/zosyn
   Blood cx 1-E.coli [**Doctor Last Name **] to cephlo/[**Last Name (un) **]/zosyn res bactrim
   Bloo2 #2-E.coli  same as above, 2^nd Gram neg rod and GPC
   all subsequent blood cx neg.
   Of note e.coli from before PNA was similar to urine
                             [**2106-6-1**]  05:59 PM
                             [**2106-6-2**]  08:03 AM
                             [**2106-6-2**]  02:06 PM
                             [**2106-6-3**]  03:03 AM
                             [**2106-6-3**]  09:22 AM
                             [**2106-6-4**]  02:51 AM
                             [**2106-6-5**]  04:56 AM
                             [**2106-6-6**]  03:31 AM
   WBC
   7.5
   5.4
   6.3
   6.2
   Hct
   22
   24.4
   22.6
   24.2
   23.5
   Plt
   [**Telephone/Fax (3) 5990**]61
   Cr
   0.4
   0.4
   0.3
   0.4
   TCO2
   36
   34
   34
   35
   Glucose
   96
   106
   102
   76
   92
   Other labs: PT / PTT / INR:13.7/35.2/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   [**Age over 90 **]F with dementia, s/p recent aspiration PNA with recurrent respiratory
   failure sepsis.
    Respiratory failure:
   -remains mechanically ventilated
   -acute on chronic resp failure
   -SBT  RSBI 117
   -Limited secretions improved
   -Will extubate today she is DNR/DNI
    Sepsis
   -2/2 bottles GNR from blood -polymic
   -e.coli in urine - suspected source of sepsis
   -Hemodyn stable
   -Vanc/[**Last Name (un) **] tailor based on sensitivities of gram + cocci
   -Still unclear source could be the wound may need longer course of abx
   6 weeks
   -Will send sputum today
   - vanc trough appropriate and calculate renal clearance and [**Last Name (un) 350**]
   dosing.
   e. coli UTI
   -indwelling foley colonization vs. infection
   -folely change
   -Not the same bug as in her blood
    Sacral Decub:
   -large ulcer
   -appears unchanged from last admission concern for Osteo given + blood
   cx will treat for 6 weeks.
   Afib:
   -NSR currently
   - amiodarone
   Remainder of plan per resident note.
   ICU Care
   Nutrition: Tube feeds held will restart after extubation
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-6-3**] 06:02 PM
   PICC Line - [**2106-6-4**] 04:16 PM
   Prophylaxis:
   DVT:   hep SQ, Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition :
   Addendum : patient was extubated uneventfully following rounds.
   Currently stable hemodynamics.
   35 minutes critical care time

2106-06-07 07:17:00 Physician Resident Progress Note
Chief Complaint: denies SOB or pain
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2106-6-6**] 10:10 AM
 INVASIVE VENTILATION - STOP [**2106-6-6**] 10:13 AM
   - extubated after successful SBT x1.5 hours in AM
   - did well on 4L NC all day
   - DNR/DNI
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-6-6**] 08:09 AM
   Meropenem - [**2106-6-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2106-6-6**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2106-6-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-7**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98
   HR: 67 (67 - 85) bpm
   BP: 149/28(60) {91/28(48) - 149/74(103)} mmHg
   RR: 25 (20 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,157 mL
                                                                    347 mL
   PO:
             TF:
                                                                    447 mL
                                                                    175 mL
   IVF:
                                                                    640 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                    755 mL
                                                                    102 mL
   Urine:
                                                                    755 mL
                                                                    102 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    402 mL
                                                                    245 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 268 (268 - 268) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 96%
   ABG: ///31/
   Ve: 7.5 L/min
   Physical Examination
   Gen: Frail, elderly, kyphotic
   HEENT: PERRL
   Heart: s1s2 RRR
   Pulm: soft Rhonchi throughout (upper airway?)
   Abd: soft, NT/ND
   Ext: no c/c/e
   Neuro: Sedated
   Skin: large decubitus over R buttock, with no purulence expressed
   Labs / Radiology
   357 K/uL
   7.9 g/dL
   115 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.8 mEq/L
   13 mg/dL
   105 mEq/L
   140 mEq/L
   24.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2106-6-1**]  05:59 PM
                             [**2106-6-2**]  08:03 AM
                             [**2106-6-2**]  02:06 PM
                             [**2106-6-3**]  03:03 AM
                             [**2106-6-3**]  09:22 AM
                             [**2106-6-4**]  02:51 AM
                             [**2106-6-5**]  04:56 AM
                             [**2106-6-6**]  03:31 AM
                             [**2106-6-7**]  04:15 AM
   WBC
   7.5
   5.4
   6.3
   6.2
   7.3
   Hct
   22
   24.4
   22.6
   24.2
   23.5
   24.1
   Plt
   [**Telephone/Fax (3) 5990**]61
   357
   Cr
   0.4
   0.4
   0.3
   0.4
   0.4
   TCO2
   36
   34
   34
   35
   Glucose
   96
   106
   102
   76
   92
   115
   Other labs: PT / PTT / INR:13.7/35.2/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   [**Age over 90 **] year old F with dementia, G-tube, s/p recent aspiration PNA now with
   recurrent respiratory failure and fever.
   # Respiratory failure: Improved, extubated. Still hypoxic but
   tolerating NC. Was producing sputum which  is now minimal. Sputum
   culture only showing  sparse orophyaryneal flora. CXR w/o obvious PNA
   but poor study. Respiratory failure [**3-15**] recurrent aspiration PNA vs [**3-15**]
   sepsis rather than primary lung process.
   - cont Meropenem / Vanc; will need 6 week course for presumed osteo
   - if clinically worsens, would add on gentamycin
   - f/u sputum cx, blood cx
   - limit sedation, did not require any on last admission
   # UTI: Chronic foley vs infection. Blood Cx now w/ GNRs, ? lung vs.
   urine. Foley now changed. Urine Cx growing E.coli senstive to meropenem
   - cont meropenem
   # Bacteremia: E.coli sensitive to meropenem, resistant to levofloxacin.
   Enterococcus pending sensitivities. HD stable, fever curve and WBC
   trending down. Surveillance blood cx neg. Vanc level 15. Given
   polymicrobial infection and visible [**Last Name (LF) 48**], [**First Name3 (LF) 124**] treat this infection as
   osteo.
   - cont Meropenem and Vanc as we presume osteo and she has hx of MRSA in
   the past
   - will discuss abx regimen with ID (OK with treating empirically for 6
   wks with osteo and whether to keep Vanc on board given hx of MRSA)
   - will need 6 week course
   - will defer echo as would not change management and all subsequent
   blood cxs have been negative
   # Low BP:  Stable On last admission presented with sepsis. BP now 95/38
   with MAP 50. However, per nursing staff this is patient
s baseline. Her
   lactate of 1.6 is also not suggestive of sepsis. Has received 2 L NS
   already. Stable.
   - ICU monitoring
   - no further IVF for now
   - keep SBP >90 with IVF boluses as needed
   # Sacral Decub: debrided on last admission with microbiology showing
   mixed baterial flora, currently appears uninfected.
   - continue to monitor
   # Afib: currently in NSR with HR 70
   - cont home amiodarone
   # Goals of care:  DNR/DNI
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-6-3**] 06:02 PM
   PICC Line - [**2106-6-4**] 04:16 PM
   Prophylaxis:
   DVT: SQ hep
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: back to rehab or call-out

2106-06-07 11:28:00 Physician Attending Progress Note
Chief Complaint: sepsis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2106-6-6**] 10:10 AM
 INVASIVE VENTILATION - STOP [**2106-6-6**] 10:13 AM
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2106-6-7**] 06:00 AM
   Vancomycin - [**2106-6-7**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-6-7**] 12:00 AM
   Other medications:
   hep 5K
   chlorhex
   asa 325 mg po qday
   amiodarone 200mg qday
   nemenda
   Changes to medical and family history:
   No change from admission H+P
   Review of systems is unchanged from admission except as noted below
   Review of systems:no complaints.
   Flowsheet Data as of  [**2106-6-7**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 66 (66 - 77) bpm
   BP: 89/33(46) {89/28(46) - 149/81(103)} mmHg
   RR: 26 (20 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,157 mL
                                                                    700 mL
   PO:
             TF:
                                                                    447 mL
                                                                    219 mL
   IVF:
                                                                    640 mL
                                                                    480 mL
   Blood products:
   Total out:
                                                                    755 mL
                                                                    197 mL
   Urine:
                                                                    755 mL
                                                                    197 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    402 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin, kyphotic
   Head, Ears, Nose, Throat: nasotracheal tube
   Cardiovascular: RRR s1s2 no m/r/g
   Respiratory / Chest: Clear anterior
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, sacral decubitus to bone
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   357 K/uL
   115 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.8 mEq/L
   13 mg/dL
   105 mEq/L
   140 mEq/L
   24.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2106-6-1**]  05:59 PM
                             [**2106-6-2**]  08:03 AM
                             [**2106-6-2**]  02:06 PM
                             [**2106-6-3**]  03:03 AM
                             [**2106-6-3**]  09:22 AM
                             [**2106-6-4**]  02:51 AM
                             [**2106-6-5**]  04:56 AM
                             [**2106-6-6**]  03:31 AM
                             [**2106-6-7**]  04:15 AM
   WBC
   7.5
   5.4
   6.3
   6.2
   7.3
   Hct
   22
   24.4
   22.6
   24.2
   23.5
   24.1
   Plt
   [**Telephone/Fax (3) 5990**]61
   357
   Cr
   0.4
   0.4
   0.3
   0.4
   0.4
   TCO2
   36
   34
   34
   35
   Glucose
   96
   106
   102
   76
   92
   115
   Other labs: PT / PTT / INR:13.7/35.2/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   [**Age over 90 **]F with dementia, s/p recent aspiration PNA with recurrent respiratory
   failure sepsis.
   Respiratory failure:
   Extubated doing well
    Sepsis
   -2/2 bottles GNR from blood
polymicrobial  2 colonies e.coli and pen
   [**Doctor Last Name **] enterococcus
   -Vanc/[**Last Name (un) **]
   -Suspect wound is source and will tx for osteo with a 6 weeks course.
   Question, to ID if we should taper antibiotics to cover organisms in
   blood or cover broadly with Vanc/[**Last Name (un) **] for 6 weeks.
   e. coli UTI
   -indwelling foley colonization vs. infection
   -folely change
   -Not the same bug as in her blood
    Sacral Decub:
   -large ulcer
   -appears unchanged from last admission concern for Osteo given + blood
   cx will treat for 6 weeks.
   -Will defer to ID for abx regimen
   Afib:
   -NSR currently
   - amiodarone
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2106-6-7**] 10:20 AM 40 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-6-3**] 06:02 PM
   PICC Line - [**2106-6-4**] 04:16 PM
   Prophylaxis:
   DVT:  Hep SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   93F with dementia, s/p recent aspiration PNA with recurrent respiratory
   failure and sepsis. Respiratory failure is resolving, Extubated two
   days ago. Septicemia with 2/2 bottles GNR from blood
polymicrobial  2
   colonies of E.coli and pansensitive enterococcus. On Vanc/[**Last Name (un) **], agree
   that wound is likely source. will tx for osteo with a 6 weeks course
   but appreciate ID
s input on duration and antibiotic choice.  Also
   treating E. coli UTI which does not seem to be the same organism which
   grew out in her blood. Afib but in sinus now, on amiodarone.
   Remainder of plan per resident note.
   Time 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2106-6-7**] 05:20 PM ------

2106-06-08 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2106-6-8**] 03:30 AM
   - ID reccs: discontinue Vanc, ? obtain TTE, obtain LFT's, CT abd to
   r/o  abcess vs RUQ U/S, re-assess LLL collapse on CXR, 2 weeks
   Meropenem
   - Vanc discontinued, LFT's ordered
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsDepakote (Oral) (Divalproex
   Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-6-7**] 10:00 AM
   Meropenem - [**2106-6-8**] 05:52 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-6-8**] 12:22 AM
   Morphine Sulfate - [**2106-6-8**] 04:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-6-8**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 67 (66 - 76) bpm
   BP: 118/41(61) {89/21(46) - 128/90(93)} mmHg
   RR: 25 (9 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,611 mL
                                                                    416 mL
   PO:
             TF:
                                                                    721 mL
                                                                    241 mL
   IVF:
                                                                    890 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    504 mL
                                                                    170 mL
   Urine:
                                                                    504 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,107 mL
                                                                    246 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   336 K/uL
   8.2 g/dL
   121 mg/dL
   0.3 mg/dL
   31 mEq/L
   4.3 mEq/L
   16 mg/dL
   102 mEq/L
   138 mEq/L
   25.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2106-6-1**]  05:59 PM
                             [**2106-6-2**]  08:03 AM
                             [**2106-6-2**]  02:06 PM
                             [**2106-6-3**]  03:03 AM
                             [**2106-6-3**]  09:22 AM
                             [**2106-6-4**]  02:51 AM
                             [**2106-6-5**]  04:56 AM
                             [**2106-6-6**]  03:31 AM
                             [**2106-6-7**]  04:15 AM
                             [**2106-6-8**]  03:08 AM
   WBC
   7.5
   5.4
   6.3
   6.2
   7.3
   7.3
   Hct
   22
   24.4
   22.6
   24.2
   23.5
   24.1
   25.3
   Plt
   [**Telephone/Fax (2) 6014**]
   Cr
   0.4
   0.4
   0.3
   0.4
   0.4
   0.3
   TCO2
   36
   34
   34
   35
   Glucose
   96
   106
   102
   76
   92
   115
   121
   Other labs: PT / PTT / INR:13.7/35.2/1.2, ALT / AST:19/30, Alk Phos / T
   Bili:94/0.1, Lactic Acid:0.8 mmol/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   [**Age over 90 **] year old F with dementia, G-tube, s/p recent aspiration PNA now with
   recurrent respiratory failure and fever.
   # Respiratory failure: Improved, extubated. Still hypoxic but
   tolerating NC. Was producing sputum which  is now minimal. Sputum
   culture only showing  sparse orophyaryneal flora. CXR w/o obvious PNA
   but poor study. Respiratory failure [**3-15**] recurrent aspiration PNA vs [**3-15**]
   sepsis rather than primary lung process.
   - cont Meropenem / Vanc; will need 6 week course for presumed osteo
   - if clinically worsens, would add on gentamycin
   - f/u sputum cx, blood cx
   - limit sedation, did not require any on last admission
   # UTI: Chronic foley vs infection. Blood Cx now w/ GNRs, ? lung vs.
   urine. Foley now changed. Urine Cx growing E.coli senstive to meropenem
   - cont meropenem
   # Bacteremia: E.coli sensitive to meropenem, resistant to levofloxacin.
   Enterococcus pending sensitivities. HD stable, fever curve and WBC
   trending down. Surveillance blood cx neg. Vanc level 15. Given
   polymicrobial infection and visible [**Last Name (LF) 48**], [**First Name3 (LF) 124**] treat this infection as
   osteo.
   - cont Meropenem and Vanc as we presume osteo and she has hx of MRSA in
   the past
   - will discuss abx regimen with ID (OK with treating empirically for 6
   wks with osteo and whether to keep Vanc on board given hx of MRSA)
   - will need 6 week course
   - will defer echo as would not change management and all subsequent
   blood cxs have been negative
   # Low BP:  Stable On last admission presented with sepsis. BP now 95/38
   with MAP 50. However, per nursing staff this is patient
s baseline. Her
   lactate of 1.6 is also not suggestive of sepsis. Has received 2 L NS
   already. Stable.
   - ICU monitoring
   - no further IVF for now
   - keep SBP >90 with IVF boluses as neede
   # Sacral Decub: debrided on last admission with microbiology showing
   mixed baterial flora, currently appears uninfected.
   - continue to monitor
   # Afib: currently in NSR with HR 70
   - cont home amiodarone
   # Goals of care:  DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2106-6-4**] 04:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to other facility

2106-06-08 09:41:00 Physician Attending Progress Note
Chief Complaint: sepsis, bacteremia and respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her, including assessment and plan.
   24 Hour Events:
   ID recommends-treating for organisms identified.  Also recommend 2 week
   course of antibiotics.
   -Recommended CRP, ERCP, LFTs
   Increased discomfort with dressing changes
 BLOOD CULTURED - At [**2106-6-8**] 03:30 AM
   Allergies:
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-6-7**] 10:00 AM
   Meropenem - [**2106-6-8**] 05:52 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2106-6-8**] 04:21 AM
   Heparin Sodium (Prophylaxis) - [**2106-6-8**] 08:09 AM
   Other medications:
   hep 5K
   chlorhex
   asa 325 mg po qday
   amiodarone 200mg qday
   nemenda
   lansoprazole
   Changes to medical and family history:
   No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: See resident note
   Flowsheet Data as of  [**2106-6-8**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.6
C (97.8
   HR: 72 (66 - 73) bpm
   BP: 115/43(62) {89/21(46) - 128/90(93)} mmHg
   RR: 22 (9 - 41) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,611 mL
                                                                    507 mL
   PO:
             TF:
                                                                    721 mL
                                                                    241 mL
   IVF:
                                                                    890 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                    504 mL
                                                                    240 mL
   Urine:
                                                                    504 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,107 mL
                                                                    267 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin, kyphotic
   Head, Ears, Nose, Throat: nasotracheal tube
   Cardiovascular: RRR s1s2 no m/r/g
   Respiratory / Chest: Course anterior
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, sacral decubitus to bone
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology:
   8.2 g/dL
   336 K/uL
   121 mg/dL
   0.3 mg/dL
   31 mEq/L
   4.3 mEq/L
   16 mg/dL
   102 mEq/L
   138 mEq/L
   25.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2106-6-1**]  05:59 PM
                             [**2106-6-2**]  08:03 AM
                             [**2106-6-2**]  02:06 PM
                             [**2106-6-3**]  03:03 AM
                             [**2106-6-3**]  09:22 AM
                             [**2106-6-4**]  02:51 AM
                             [**2106-6-5**]  04:56 AM
                             [**2106-6-6**]  03:31 AM
                             [**2106-6-7**]  04:15 AM
                             [**2106-6-8**]  03:08 AM
   WBC
   7.5
   5.4
   6.3
   6.2
   7.3
   7.3
   Hct
   22
   24.4
   22.6
   24.2
   23.5
   24.1
   25.3
   Plt
   [**Telephone/Fax (3) 6014**]
   Cr
   0.4
   0.4
   0.3
   0.4
   0.4
   0.3
   TCO2
   36
   34
   34
   35
   Glucose
   96
   106
   102
   76
   92
   115
   121
   Other labs: PT / PTT / INR:13.7/35.2/1.2, ALT / AST:19/30, Alk Phos / T
   Bili:94/0.1, Lactic Acid:0.8 mmol/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.3 mg/dL
   Micro-no new micro
   Assessment and Plan
   [**Age over 90 **]F with dementia, s/p recent aspiration PNA with recurrent respiratory
   failure sepsis.
   Respiratory failure:
   Extubated doing well
    Sepsis polymicrobial bacteremia
   -2/2 bottles GNR from blood
polymicrobial  2 colonies e.coli and pen
   [**Doctor Last Name **] enterococcus
   -Will d
c vancomycin
   -Serial blood cx negative
   -Suspect wound is source and will tx for osteo with a 6 weeks course
   ID recommends 2 week tx with meropenem.  We will discuss with ID 2 vrs
   6 weeks.
   e. coli UTI
   -indwelling foley colonization vs. infection
   -folely change
   -Not the same bug as in her blood
    Sacral Decub:
   -large ulcer
   -appears unchanged from last admission concern for Osteo given + blood
   cx will disuss treatment for 6 weeks with ID and plastics.
   -Will defer to ID for abx regimen
   Afib:
   -NSR currently
   - amiodarone
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2106-6-4**] 04:16 PM
   Prophylaxis:
   DVT:  Hep
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Back to NH after clarify abx course.
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   93F with dementia, s/p recent aspiration PNA with recurrent respiratory
   failure and sepsis. Respiratory failure resolved, Septicemia with 2/2
   bottles GNR from blood
polymicrobial  2 colonies of E.coli and
   pansensitive enterococcus. On Meropenem monotherapy. Agree that wound
   is likely source. Appreciate ID
s input and suggestion to treat x 2
   weeks rather than 6 weeks. Reasoning is that treating for osteo is
   difficult since there are no plans for skin flap and therefore unlikely
   to resolve osteo. Hx of afib but in sinus, on amiodarone.
   Remainder of plan per resident note.
   Time 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2106-6-8**] 18:41 ------